US05672597
Ethyl 2-[2-(ethoxycarbonylamino)ethylthio]acetate
There was suspended 50 g (0.65 mol) of 2-aminoethanethiol in 660 ml of ethanol and, under cooling with ice, added 65.6 g (0.65 mol) of triethylamine and added dropwise 79.6 g (0.65 mol) of ethyl chloroacetate, and then the mixture was stirred for 1 hour under cooling with ice. Then thereto was added 65.6 g (0.65 mol) of triethylamine and added dropwise 70.6 g (0.65 mol) of ethyl chloroformate, and the mixture was stirred for 1 hour under cooling with ice, and further for hours at room temperature. After the solvent was removed under reduced pressure, the residue was dissolved in chloroform and washed with water, and dried over anhydrous sodium sulfate. Then the solvent was removed under reduced pressure to give 137 g of the titled compound as oily matter.

reactant | 2-aminoethanethiol | 0.65 mol, 50 g | NCCS | C2H7NS
reactant | triethylamine | 0.65 mol, 65.6 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroacetate | 0.65 mol, 79.6 g | ClCC(=O)OCC | C4H7ClO2
reactant | triethylamine | 0.65 mol, 65.6 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.65 mol, 70.6 g | ClC(=O)OCC | C3H5ClO2
solvent | ethanol | 660 ml | C(C)O | C2H6O
product | Ethyl 2-[2-(ethoxycarbonylamino)ethylthio]acetate | 137 g | C(C)OC(=O)NCCSCC(=O)OCC | C9H17NO4S
